US04245107
398 mg. of 3-(4-pyridylsulfinyl)propionic acid and 7-amino-3-azidomethyl-3-cephem-4-carboxylic acid were reacted in the same manner as described in Example 28 and 143 mg. of 7-[3-(4-pyridylsulfinyl)propinamido]-3-azidomethyl-3-cephem-4-carboxylic acid were obtained.

reactant | 3-(4-pyridylsulfinyl)propionic acid | N1=CC=C(C=C1)S(=O)CCC(=O)O | C8H9NO3S
reactant | 7-amino-3-azidomethyl-3-cephem-4-carboxylic acid | NC1[C@@H]2N(C(=C(CS2)CN=[N+]=[N-])C(=O)O)C1=O | C8H9N5O3S
product | 7-[3-(4-pyridylsulfinyl)propinamido]-3-azidomethyl-3-cephem-4-carboxylic acid | N1=CC=C(C=C1)S(=O)C#CC(=O)NC1[C@@H]2N(C(=C(CS2)CN=[N+]=[N-])C(=O)O)C1=O | C16H12N6O5S2
